US05688792
Step 3: (R)-[3-[3-fluoro-4-(3-thiazolidinyl)phenyl]-2-oxo-5-oxazolidinyl]methanol
Using the same general procedure as step 3 of example 1, 3-[2-fluoro-4-(benzyloxycarbonyl) aminophenyl]thiazolidine (692 mg, 2.24 mmol) was treated sequentially with n-butyllitium (1.5 mL, 2.40 mmol) and (R)-(-)-glycidylbutyrate (0.33 mL, 2.33 mmol) to provide 500 mg (78%) of the title compound. Recystallization from methylene chloride/hexane provided an analytical sample with a melting point of 96°97° C.

reactant | 3-[2-fluoro-4-(benzyloxycarbonyl) aminophenyl]thiazolidine | 2.24 mmol, 692 mg | FC1=C(C=CC(=C1)NC(=O)OCC1=CC=CC=C1)N1CSCC1 | C17H17FN2O2S
reactant | n-butyllitium | 2.40 mmol, 1.5 mL | C(CCC)[Li]
reactant | (R)-(-)-glycidylbutyrate | 2.33 mmol, 0.33 mL | C([C@H]1CO1)OC(CCC)=O | C7H12O3
product | (R)-[3-[3-fluoro-4-(3-thiazolidinyl)phenyl]-2-oxo-5-oxazolidinyl]methanol | 500 mg, 78% | FC=1C=C(C=CC1N1CSCC1)N1C(O[C@H](C1)CO)=O | C13H15FN2O3S
